US07767675B2
(1-Acetyl-4-{4-[7-(quinolin-6-ylmethyl)imidazo[1,2-b][1,2,4]triazin-2-yl]-1H-pyrazol-1-yl}piperidin-4-yl)acetonitrile
This compound was prepared as a TFA salt starting from (4-{4-[7-(quinolin-6-ylmethyl)imidazo[1,2-b][1,2,4]triazin-2-yl]-1H-pyrazol-1-yl}piperidin-4-yl)acetonitrile using procedures analogous to those for Example 203, Step 4. LCMS: (M+H)=492.4.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (4-{4-[7-(quinolin-6-ylmethyl)imidazo[1,2-b][1,2,4]triazin-2-yl]-1H-pyrazol-1-yl}piperidin-4-yl)acetonitrile | N1=CC=CC2=CC(=CC=C12)CC1=CN=C2N1N=C(C=N2)C=2C=NN(C2)C2(CCNCC2)CC#N | C25H23N9
product | (1-Acetyl-4-{4-[7-(quinolin-6-ylmethyl)imidazo[1,2-b][1,2,4]triazin-2-yl]-1H-pyrazol-1-yl}piperidin-4-yl)acetonitrile | C(C)(=O)N1CCC(CC1)(N1N=CC(=C1)C=1C=NC=2N(N1)C(=CN2)CC=2C=C1C=CC=NC1=CC2)CC#N | C27H25N9O
